US05491167
(4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-Hexahydro-6-hydroxy-8-[(2RS)-2-(2-fluorophenoxy)butyryloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-hydroxy-2H-pyran-2-one (Compound No. 1-97)
A procedure similar to that described in Example 2, above, was followed, but using 1.26 g of (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-[(2RS)-2-(2-fluorophenoxy)butyryloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described inExample 55, above] and 25.9 ml of a 1.0 molar solution of tetrabutylammonium fluoride in tetrahydrofuran, to give 635 mg of the title compound as white crystals, melting at between 136° and 138° C.

reactant | (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-[(2RS)-2-(2-fluorophenoxy)butyryloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.26 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(CC)OC1=C(C=CC=C1)F)=O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C40H63FO7Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-Hexahydro-6-hydroxy-8-[(2RS)-2-(2-fluorophenoxy)butyryloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-hydroxy-2H-pyran-2-one | 635 mg | O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(CC)OC1=C(C=CC=C1)F)=O)CC[C@@H]1C[C@H](CC(O1)=O)O)C | C28H35FO7
